US09102688B2
General Procedure 12: Sodium (2-methyl-3-chlorophenyl)sulfamate (Intermediate 21)
Chlorosulfonic acid (516 μl, 7.77 mmol) in chloroform (5 ml) was added dropwise to a solution of 3-chloro-2-methylaniline (844 μl, 6.98 mmol) and TEA (7.8 ml, 56.54 mmol) in chloroform (20 ml) at 0° C. The mixture was stirred for 90 min, concentrated in vacuo and a solution of NaOH (848 mg, 21.2 mmol) in water (10 ml) was added and the mixture stirred for 30 min at room temperature. The reaction was concentrated in vacuo and azeotroped with toluene. The solid obtained was heated in EtOH (50 ml) at 60° C. for 15 min, concentrated in vacuo and EtOAc (50 ml) added. The resulting solid was collected by filtration and the filtrate allowed to stand at room temperature for 4 h. The crystals formed were filtered, washed with EtOAc, and the solids combined to give the title compound (1.44 g, 84%).

reactant | Chlorosulfonic acid | 7.77 mmol, 516 μl | ClS(=O)(=O)O | ClHO3S
reactant | 3-chloro-2-methylaniline | 6.98 mmol, 844 μl | ClC=1C(=C(N)C=CC1)C | C7H8ClN
reactant | NaOH | 21.2 mmol, 848 mg | [OH-].[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 10 ml | O | H2O
solvent | EtOH | 50 ml | CCO | C2H6O
product | Sodium (2-methyl-3-chlorophenyl)sulfamate | 1.44 g, 84% | CC1=C(C=CC=C1Cl)NS([O-])(=O)=O.[Na+] | InChI=1S/C7H8ClNO3S.Na/c1-5-6(8)3-2-4-7(5)9-13(10,11)12;/h2-4,9H,1H3,(H,10,11,12);/q;+1/p-1
